**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     filterinductor Inductor
* Matchcode:          WE-RCIT
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 7847110020_2u 1 2
Rp 1 2 7948.47722288
Cp 1 2 171.15982158p
Rs 1 N3 0.011
L1 N3 2 1.61401618193u
.ends 7847110020_2u
*******
.subckt 7847111020_2u 1 2
Rp 1 2 11155
Cp 1 2 483.47p
Rs 1 N3 0.0065
L1 N3 2 1.562u
.ends 7847111020_2u
*******
.subckt 7847111100_10u 1 2
Rp 1 2 31407
Cp 1 2 361.036p
Rs 1 N3 0.033
L1 N3 2 7.876u
.ends 7847111100_10u
*******
.subckt 7847120060_6u 1 2
Rp 1 2 18792
Cp 1 2 264.773p
Rs 1 N3 0.022
L1 N3 2 4.33u
.ends 7847120060_6u
*******
.subckt 7847121020_2u 1 2
Rp 1 2 11722
Cp 1 2 757.385p
Rs 1 N3 0.0038
L1 N3 2 1.428u
.ends 7847121020_2u
*******
.subckt 7847121060_6u 1 2
Rp 1 2 22591
Cp 1 2 598.27p
Rs 1 N3 0.0117
L1 N3 2 4.602u
.ends 7847121060_6u
*******
.subckt 7847121100_10u 1 2
Rp 1 2 27090
Cp 1 2 605.799p
Rs 1 N3 0.0151
L1 N3 2 6.497u
.ends 7847121100_10u
*******
.subckt 7847131020_2u 1 2
Rp 1 2 9740
Cp 1 2 1.123p
Rs 1 N3 0.0017
L1 N3 2 1.648u
.ends 7847131020_2u
*******
.subckt 7847131060_6u 1 2
Rp 1 2 20596
Cp 1 2 816.784p
Rs 1 N3 0.0065
L1 N3 2 4.492u
.ends 7847131060_6u
*******
.subckt 7847131100_10u 1 2
Rp 1 2 21755
Cp 1 2 886.89p
Rs 1 N3 0.0088
L1 N3 2 7.192u
.ends 7847131100_10u
*******
.subckt 7847132060_6u 1 2
Rp 1 2 21606
Cp 1 2 1.648p
Rs 1 N3 0.0035
L1 N3 2 4.208u
.ends 7847132060_6u
*******
.subckt 7847132100_10u 1 2
Rp 1 2 31364
Cp 1 2 2.276p
Rs 1 N3 0.0057
L1 N3 2 5.99u
.ends 7847132100_10u
*******
